US08314097B2
B. 6-(5-n-Propyl-5,6,7,8-tetrahydro-imidazo[1,5-a]pyridine-5-yl)biphenyl-3-carbonitrile
To a solution of 6-(5-allyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine-5-yl)biphenyl-3-carbonitrile (35 mg, 0.103 mmol) in EtOH (2 mL) at ambient temperature is added H2NNH2/THF (1.0 M, 15 mL, 15 mmol) and saturated aqueous CuSO4 (0.1 mL). The reaction mixture is stirred at ambient temperature overnight. The mixture is concentrated and dissolved in EtOAc, which is washed with water, dried over anhydrous Na2SO4 and concentrated to give the crude oil, which is subjected to flash chromatography (silica gel) eluting with MeOH:CH2Cl2 to yield the desired compound. MS (ESI) m/z 342 (M+H); 1H NMR (400 MHz, CDCl3) δ ppm (HCl salt) 0.95 (t, J=7.2 Hz, 3 H), 1.21-1.33 (m, 2 H), 1.80-1.90 (m, 2 H), 1.90-2.02 (m, 1 H), 2.09-2.37 (m, 3 H), 2.59-2.68 (m, 1 H), 2.71-2.85 (m, 1 H), 6.81-6.88 (m, 1 H), 6.90-6.98 (m, 2 H), 7.19-7.25 (m, 1 H), 7.27-7.39 (m, 3 H), 7.43 (d, J=1.8 Hz, 1 H), 7.71 (dd, J=8.3, 2.0 Hz, 1 H), 8.10-8.18 (m, 1 H).

reactant | 6-(5-allyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine-5-yl)biphenyl-3-carbonitrile | 0.103 mmol, 35 mg | C(C=C)C1(CCCC=2N1C=NC2)C2=CC=C(C=C2C2=CC=CC=C2)C#N | C23H21N3
reactant | H2NNH2 THF | 15 mmol, 1.0 M, 15 mL | NN.C1CCOC1
solvent | EtOH | 2 mL | CCO | C2H6O
catalyst | CuSO4 | 0.1 mL | [O-]S(=O)(=O)[O-].[Cu+2]
product | 6-(5-n-Propyl-5,6,7,8-tetrahydro-imidazo[1,5-a]pyridine-5-yl)biphenyl-3-carbonitrile | C(CC)C1(CCCC=2N1C=NC2)C2=CC=C(C=C2C2=CC=CC=C2)C#N | C23H23N3
